US07371751B2
2,4-Dichloro-N-(4-chloro-phenyl)-N-[4-(morpholine-4-carbonyl)-thiazol-2-yl]-benzamide
According to the procedure described fort he synthesis of Example 4 further derivatives have been synthesised from 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid, 2-[(2-Chloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid, 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-4-carboxylic acid or 2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid and various commercially available amines and comprise Examples 5-Example 95 below.

reactant | 2-[(2,4-Dichloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)O)C2=CC(=C(C=C2)OC)OC)C=CC(=C1)Cl | C19H14Cl2N2O5S
reactant | 2-[(2-Chloro-benzoyl)-(3,4-dimethoxy-phenyl)-amino]-thiazole-4-carboxylic acid | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)O)C2=CC(=C(C=C2)OC)OC)C=CC=C1 | C19H15ClN2O5S
reactant | 2-[(4-Chloro-phenyl)-(2,4-dichloro-benzoyl)-amino]-thiazole-4-carboxylic acid | ClC1=CC=C(C=C1)N(C=1SC=C(N1)C(=O)O)C(C1=C(C=C(C=C1)Cl)Cl)=O | C17H9Cl3N2O3S
reactant | 2-[(2-Chloro-benzoyl)-(4-chloro-phenyl)-amino]-thiazole-4-carboxylic acid | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)O)C2=CC=C(C=C2)Cl)C=CC=C1 | C17H10Cl2N2O3S
product | 2,4-Dichloro-N-(4-chloro-phenyl)-N-[4-(morpholine-4-carbonyl)-thiazol-2-yl]-benzamide | ClC1=C(C(=O)N(C=2SC=C(N2)C(=O)N2CCOCC2)C2=CC=C(C=C2)Cl)C=CC(=C1)Cl | C21H16Cl3N3O3S
